US08247403B2
(1) tert-butyl 9-ethenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-Butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (852 mg, 2.60 mmol), vinylboronic acid pinacol ester (400 mg, 2.60 mmol), saturated aqueous sodium carbonate solution (12 ml), and tetrakis(triphenylphosphine)palladium(0) (84.8 mg, 0.0734 mmol) in dimethoxyethane (15 ml) was stirred under a nitrogen atmosphere at 85° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give the desired product (250 mg, 34.9%) as an oil.

reactant | tert-Butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 2.60 mmol, 852 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | vinylboronic acid pinacol ester | 2.60 mmol, 400 mg | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
reactant | sodium carbonate | 12 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0734 mmol, 84.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-ethenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 250 mg, 34.9% | C(=C)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C16H21NO3
